US05186717
b) Preparation of 2-amino-3-nitro-5-methyl-N-methyl-N-tosylaniline
0.246 mol (79 g) of 2-amino-3-nitro-5-methyl-N-tosylaniline is dissolved in 260 ml of normal sodium hydroxide solution at 40° C. 0.286 mol (30 ml) of methyl sulphate is added gradually in the course of 3 hours, the temperature being kept at about 40° C. Towards the end of the addition of the methyl sulphate, the pH of the reaction medium is kept alkaline by simultaneously adding 20 ml of normal sodium hydroxide solution. After cooling to about 10° C., the expected product which has precipitated is filtered off. It is washed with a normal sodium hydroxide solution and then with water and recrystallised from acetic acid. After drying in vacuo, it melts at 208° C.

reactant | 2-amino-3-nitro-5-methyl-N-tosylaniline | 0.246 mol, 79 g | NC1=C(NS(=O)(=O)C2=CC=C(C)C=C2)C=C(C=C1[N+](=O)[O-])C | C14H15N3O4S
reactant | methyl sulphate | 0.286 mol, 30 ml | S(=O)(=O)(OC)[O-]
solvent | sodium hydroxide | 260 ml | [OH-].[Na+]
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 2-amino-3-nitro-5-methyl-N-methyl-N-tosylaniline | NC1=C(N(S(=O)(=O)C2=CC=C(C)C=C2)C)C=C(C=C1[N+](=O)[O-])C | C15H17N3O4S
